US05502073
Diisobutylaluminium hydride (1M solution in toluene, 18.5 ml.) was added to a solution of 4,4-dimethylhexanenitrile (2.0 g.) in dry diethyl ether (100 ml.) stirred under nitrogen. The mixture was refluxed for 3 hours and cooled. A solution of water (2 ml.) and dioxane (10 ml.) was added dropwise followed by dilute hydrochloric acid (80 ml.) and the solution stirred for 1 hour. Diethyl ether was added and the ethereal extracts separated. The ethereal extracts were dried (anhydrous magnesium sulphate) and evaporated to give 4,4-dimethylhexanal (1.3 g.). Nuclear Magnetic Resonance Spectrum (NMR) was as follows: 0.9,6H,s; 1.4,7H,m; 2.4,2H,m; 9.7,1H,t.

reactant | Diisobutylaluminium hydride | 1M, 18.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4,4-dimethylhexanenitrile | 2.0 g | CC(CCC#N)(CC)C | C8H15N
reactant | water | 2 ml | O | H2O
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4,4-dimethylhexanal | 1.3 g | CC(CCC=O)(CC)C | C8H16O
